US08114881B2
A high-pressure steel reactor (Parr) with CO-gas inlet was charged with 3-bromo-6-methyl-1-[3-(trifluoromethyl)phenyl]pyrazin-2(1H)-one (SM1, 0.30 g, 0.89 mmol), Pd(OAc)2 (0.035 g, 0.16 mmol), PPh3 (0.070 g, 0.26 mmol) and 5-methanesulfonyl-pyridine-2-ylamine (0.46 g, 1.79 mmol) in methanol (25 ml). To this mixture was added triethylamine (1.5 ml, 1.09 g, 10 mmol) and a magnetic stirrer bar. The reactor was ventilated with CO and 6 atmospheres CO-pressure was applied to the system. The reactor was heated to 90° C., the mixture was vigorously stirred, and the reaction was allowed to proceed for 4 h, and was then allowed to cool. The volatiles were removed in vacuo and the crude product was purified by preparative HPLC, which gave 0.22 g (53%) of 5-methyl-N-{[5-(methylsulfonyl)-pyridin-2-yl]methyl}-3-oxo-4-[3-(trifluoromethyl)-phenyl]-3,4-dihydropyrazine-2-carboxamide as a white solid, after freeze-drying the pure fractions.

reactant | 3-bromo-6-methyl-1-[3-(trifluoromethyl)phenyl]pyrazin-2(1H)-one | 0.89 mmol, 0.30 g | BrC=1C(N(C(=CN1)C)C1=CC(=CC=C1)C(F)(F)F)=O | C12H8BrF3N2O
reactant | PPh3 | 0.26 mmol, 0.070 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | 5-methanesulfonyl-pyridine-2-ylamine | 1.79 mmol, 0.46 g | CS(=O)(=O)C=1C=CC(=NC1)N | C6H8N2O2S
reactant | triethylamine | 10 mmol, 1.5 ml, 1.09 g | C(C)N(CC)CC | C6H15N
reactant | methanol | 25 ml | CO | CH4O
catalyst | Pd(OAc)2 | 0.16 mmol, 0.035 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 5-methyl-N-{[5-(methylsulfonyl)-pyridin-2-yl]methyl}-3-oxo-4-[3-(trifluoromethyl)-phenyl]-3,4-dihydropyrazine-2-carboxamide | 0.22 g, 53% | CC=1N(C(C(=NC1)C(=O)NCC1=NC=C(C=C1)S(=O)(=O)C)=O)C1=CC(=CC=C1)C(F)(F)F | C20H17F3N4O4S
